US04724236
5,11-Dihydro-11-[[(2-propynyl)-amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
5.5 g (0.1 mol) of propargylamine were added dropwise with stirring at ambient temperature to a suspension of 27.3 g (0.1 mol) of 11-chlorocarbonyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 10.0 g (0.1 mol) of triethylamine in 500 ml of chloroform, whereupon the temperature rises to 35° C. The mixture is stirred for a further 30 minutes at 40° C., then filtered over activated charcoal and the reaction solution is evaporated to dryness in vacuo. After the oily residue has been decocted with ethyl acetate the desired product is obtained in the form of a colourless crystalline mass in a yield of 20.7 g (71% of theory).

reactant | propargylamine | 0.1 mol, 5.5 g | C(C#C)N | C3H5N
reactant | 11-chlorocarbonyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.1 mol, 27.3 g | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | triethylamine | 0.1 mol, 10.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,11-Dihydro-11-[[(2-propynyl)-amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C#C)NC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C16H12N4O2
